// 5-stage ring oscillator (TSMC28 ULVT) + Verilog-A divide-by-2 monitor.
// A current kick on n1 breaks the metastable DC symmetry; the VA block
// divides the ring frequency by 2 on node DIV.
simulator lang=spectre
global 0
parameters VDD=0.9

include "/home/zhangz/T28/toplevel_modified.scs" section=pre_simu
include "/home/zhangz/T28/toplevel_modified.scs" section=top_tt

subckt inv IN OUT VDD VSS
mn (OUT IN VSS VSS) nch_ulvt_mac l=100n w=1u multi=1 nf=2
mp (OUT IN VDD VDD) pch_ulvt_mac l=100n w=2u multi=1 nf=4
ends inv

v_vdd (VDDA 0) vsource dc=VDD type=dc

x_i1 (n1 n2 VDDA 0) inv
x_i2 (n2 n3 VDDA 0) inv
x_i3 (n3 n4 VDDA 0) inv
x_i4 (n4 n5 VDDA 0) inv
x_i5 (n5 n1 VDDA 0) inv

c1 (n1 0) capacitor c=10f
c2 (n2 0) capacitor c=10f
c3 (n3 0) capacitor c=10f
c4 (n4 0) capacitor c=10f
c5 (n5 0) capacitor c=10f

// startup kick
i_kick (0 n1) isource type=pulse val0=0 val1=50u delay=10p rise=10p fall=10p width=200p

x_div (n1 DIV) va_div2 vdd=VDD vth=VDD/2

simulatorOptions options temp=27 tnom=27 gmin=1e-12
tran tran stop=20n maxstep=2p annotate=status

save n1 n2 n3 DIV
saveOptions options save=selected
ahdl_include "va_div2.va"
