// Parasitic-insensitive switched-capacitor integrator:
// MOS transmission-gate switches + VA ideal opamp (mixed VA demo).
// fclk = 100MHz, Cs = 100f, Cf = 400f, Vin = vcm + 50mV
// -> output steps -Vin_diff*Cs/Cf = -12.5mV per clock cycle.
simulator lang=spectre
global 0
parameters VDD=0.9 VCM=0.45 VIN_D=50m

include "/home/zhangz/T28/toplevel_modified.scs" section=pre_simu
include "/home/zhangz/T28/toplevel_modified.scs" section=top_tt

subckt tgate A B CK CKB VDD VSS
mn (A CK B VSS) nch_ulvt_mac l=30n w=2u multi=1 nf=4
mp (A CKB B VDD) pch_ulvt_mac l=30n w=2u multi=1 nf=4
ends tgate

v_vdd (VDDA 0) vsource dc=VDD type=dc
v_in (VIN 0) vsource dc=VCM+VIN_D type=dc
v_cm (VCMN 0) vsource dc=VCM type=dc

// phase 1: 0.5n..4.5n high, phase 2: 5.5n..9.5n high (period 10n)
v_p1  (P1 0)  vsource type=pulse val0=0 val1=VDD delay=0.5n rise=100p fall=100p width=4n period=10n
v_p1b (P1B 0) vsource type=pulse val0=VDD val1=0 delay=0.5n rise=100p fall=100p width=4n period=10n
v_p2  (P2 0)  vsource type=pulse val0=0 val1=VDD delay=5.5n rise=100p fall=100p width=4n period=10n
v_p2b (P2B 0) vsource type=pulse val0=VDD val1=0 delay=5.5n rise=100p fall=100p width=4n period=10n

// phi1: sample VIN onto Cs (right plate to VCM); phi2: dump into virtual gnd
x_s1 (VIN CSL P1 P1B VDDA 0) tgate
x_s2 (CSR VCMN P1 P1B VDDA 0) tgate
x_s3 (CSL VCMN P2 P2B VDDA 0) tgate
x_s4 (CSR VX P2 P2B VDDA 0) tgate

c_s (CSL CSR) capacitor c=100f
c_f (VX VOUT) capacitor c=400f
// weak bleed: defines the floating virtual ground at DC (all switches off
// at t=0) so the high-gain opamp starts in its linear region
r_init (VX VCMN) resistor r=10M

x_amp (VX VOUT) va_ideal_opamp a0=2000 vcm=VCM

c_load (VOUT 0) capacitor c=50f

simulatorOptions options temp=27 tnom=27 gmin=1e-12
tran tran stop=200n maxstep=20p annotate=status

save VOUT VX CSL CSR P1 P2
saveOptions options save=selected
ahdl_include "va_ideal_opamp.va"
