// NMOS switch sampling onto a capacitor: sampled noise should be kT/C,
// independent of switch size (track-bandwidth noise frozen at turn-off).
simulator lang=spectre
global 0
parameters fs=50M VDD=0.9 VCM=0.45 CS=100f WSW=2u

include "/home/process/tsmc28n/PDK_mmWave/iPDK_CRN28HPC+ULL_v1.8_2p2a_20190531/tsmcN28/../models/spectre/toplevel.scs" section=TOP_TT

v_in  (IN 0)  vsource dc=VCM type=dc
v_clk (CLK 0) vsource type=pulse val0=0 val1=VDD period=1/fs rise=50p fall=50p
m_sw  (IN CLK VS 0) nch_ulvt_mac l=30n w=WSW multi=1 nf=2
c_s   (VS 0) capacitor c=CS

simulatorOptions options temp=27 tnom=27

pss pss fund=fs harms=10 errpreset=conservative annotate=status
pnoise pnoise start=0 stop=fs/2 pnoisemethod=fullspectrum \
    noisetype=sampled measurement=[pm0] annotate=status
pm0 jitterevent trigger=[CLK 0] triggerthresh=0.45 triggernum=1 \
    triggerdir=fall target=[VS 0]

save VS CLK IN
saveOptions options save=selected
