*|DSPF 1.5
*|DESIGN "F1_DUT"
*|GROUND_NET VSS
* RC ladder, DSPF packaging of fixture F1.  Same topology / answers as
* f1_rc_ladder.flat.scs:  n1 -[10]- n2 -[20]- n3 -[30]- n4, Cg(n2)=1f.
.subckt F1_DUT n1 n4
r_1 n1 n2 10.0
r_2 n2 n3 20.0
r_3 n3 n4 30.0
ci_n2_gnd n2 VSS 1e-15
.ends
