*|DSPF 1.5
*|DESIGN "F2_DUT"
*|GROUND_NET VSS
* Diff-pair with coupling, DSPF packaging of fixture F2.  Two isolated
* R half-chains (each 5+5=10) bridged only by a Cc → DC-isolated halves.
.subckt F2_DUT nIP nIN nOP nON
r_IP_A nIP nA 5.0
r_A_OP nA nOP 5.0
r_IN_B nIN nB 5.0
r_B_ON nB nON 5.0
cc_A_B nA nB 1e-15
.ends
